US08975398B2
5-neopentyl-3-(4-nitrophenyl)-1,2,4-oxadiazole
To a suspension of (Z)—N′-hydroxy-4-nitrobenzimidamide (0.500 g, 2.76 mmol) in dichloromethane (6 ml) was added 4-methylmorpholine (0.455 ml, 4.14 mmol) followed by 3,3-dimethylbutanoyl chloride (0.422 ml, 3.04 mmol). After 1 hour, the crude reaction mixture was purified by normal phase chromatography and the collected intermediate was dissolved in dichloromethane (8 ml) and treated with tetrabutylammonium fluoride (1.0M in THF) (8.28 ml, 8.28 mmol). After 3 hours at room temperature, the mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered, and concentrated. Normal phase chromatography provided the title compound.

reactant | (Z)—N′-hydroxy-4-nitrobenzimidamide | 2.76 mmol, 0.500 g | O\N=C(\C1=CC=C(C=C1)[N+](=O)[O-])/N | C7H7N3O3
reactant | 4-methylmorpholine | 4.14 mmol, 0.455 ml | CN1CCOCC1 | C5H11NO
reactant | 3,3-dimethylbutanoyl chloride | 3.04 mmol, 0.422 ml | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | tetrabutylammonium fluoride | 8.28 mmol, 1.0M, 8.28 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-neopentyl-3-(4-nitrophenyl)-1,2,4-oxadiazole | C(C(C)(C)C)C1=NC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H15N3O3
